US07642361B2
3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl-propionitrile
Heat at 80° C. a mixture trifluoro-acetic acid 4-(2-cyano-ethyl)-phenyl ester (2.63 mmol), PdCl2(dppf) (0.5 mmol, 0.2 eq), bis(pinacolato)diboron (commercially available) (3.156 mmol, 1.2 eq) and potasium acetate (774 mg, 7.89 mmol, 3 eq) in DMF (16 ml) under nitrogen atmosphere overnight. Partition the reaction mixture between ethyl acetate and ice-water. Wash the organic phase with HCl 10% solution and water, dry over MgSO4 and filter over Celite® and remove the solvent in vacuo. Purification by flash chromatography (hexane:ethyl acetate 4:1) provides the title compound.

reactant | trifluoro-acetic acid 4-(2-cyano-ethyl)-phenyl ester | 2.63 mmol | C(#N)CCC1=CC=C(C=C1)OC(C(F)(F)F)=O | C11H8F3NO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potasium acetate | 7.89 mmol, 774 mg, 3 eq | C(C)(=O)[O-].[K+]
reactant | DMF | 16 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.5 mmol, 0.2 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl-propionitrile | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C#N)C)C | C15H20BNO2
